US07626056B2
8-(Cyclopropylmethyl)-1,4-dioxaspiro[4.5]decane-8-carbonitrile
To a stirred solution of 1,4-dioxaspiro[4.5]decane-8-carbonitrile (20 g; 119.6136 mmol) and (bromomethyl)cyclopropane (17.76 g 12.6 ml; 131.57 mmol) in THF (100 ml) at −10° C. was added KHMDS (0.5M solution in toluene; 263.15 ml ; 131.57 mmol) dropwise and the solution allowed to warm to ambient temperature with stirring for 18 hours. The reaction was cooled in an ice bath and quenched with sat. ammonium chloride solution and the solvent evaporated. The residue was partitioned between EtOAc (300 ml) and water (100 ml adjusted to pH 4 with 1 N HCl). The organic phase was separated, dried over MgSO4, filtered and evaporated to give an orange oil. (21.0 g) 1H NMR δ (ppm)(CDCl3): 3.99-3.89 (4H, m), 2.08 (2H, d, J=13.5 Hz), 1.96-1.72 (9H, m), 0.96-0.82 (1H, m), 0.59-0.53 (2H, m), 0.17 (2H, q, J=5.1 Hz).

reactant | 1,4-dioxaspiro[4.5]decane-8-carbonitrile | 119.6136 mmol, 20 g | O1CCOC12CCC(CC2)C#N | C9H13NO2
reactant | (bromomethyl)cyclopropane | 131.57 mmol, 12.6 ml, 17.76 g | BrCC1CC1 | C4H7Br
reactant | KHMDS | 131.57 mmol, 0.5M, 263.15 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 8-(Cyclopropylmethyl)-1,4-dioxaspiro[4.5]decane-8-carbonitrile | C1(CC1)CC1(CCC2(OCCO2)CC1)C#N | C13H19NO2
